US06331538B1
1-(3-Fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione;
1-(2,4,5-Trifluorophenyl)-6-fluoro-3-hydroxy-7-(3-aminopyrrolidin-1-yl)-1H-quinazoline-2,4-dione, trifluoroacetate;

reactant | 1-(2,4,5-Trifluorophenyl)-6-fluoro-3-hydroxy-7-(3-aminopyrrolidin-1-yl)-1H-quinazoline-2,4-dione | FC1=C(C=C(C(=C1)F)F)N1C(N(C(C2=CC(=C(C=C12)N1CC(CC1)N)F)=O)O)=O | C18H14F4N4O3
reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
product | 1-(3-Fluorophenyl)-6-fluoro-3-hydroxy-7-(4-methylpiperazin-1-yl)-1H-quinazoline-2,4-dione | FC=1C=C(C=CC1)N1C(N(C(C2=CC(=C(C=C12)N1CCN(CC1)C)F)=O)O)=O | C19H18F2N4O3
